US06969714B2
2-(3-Chloroanilino)-4-[1-(2-methoxyethyl)imidazol-5-yl]pyrimidine hydrochloride
Trifluoromethylsulphonic anhydride (0.16 ml, 0.93 mmol) was added to a solution of 2-methoxyethanol (73.7 ml, 0.88 mmol) and diisopropylethylamine (0.20 ml, 1.17 mmol) in DCM (1 ml) at −20° C. and the solution stirred for 30 minutes. This mixture was then added to a solution of 2-(3-chloroanilino)-4-(1-triphenylmethylimidazol-4-yl)pyrimidine Method 2; 300 mg, 0.58 mmol) in DCM (5 ml) at −20° C. and the reaction mixture allowed to warm and stirred for 2 hours at ambient temperature. The mixture was extracted between EtOAc and saturated aqueous sodium hydrogen carbonate solution. The organic phase was separated, dried and the volatiles removed by evaporation. The residue was purified by column chromatography, eluting with DCM and 7M methanolic ammonia solution (99.5:0.5 increasing in polarity to 96:4). The purified product was dissolved in either and treated with ethereal hydrogen chloride. The precipitate was collected by filtration washed with ether and dried to give the title compound 132 mg, (69%). NMR: 3.17 (s, 3H), 3.63 (t, 2H), 4.96 (t, 2H), 5.86 (br s, 1H), 7.04 (d, 1H), 7.28-7.44 (m, 2H), 7.60 (d, 1H), 7.88 (s, 1H), 8.56 (s, 1H), 8.64 (d, 1H), 9.28 (s, 1H), 10.0 (s, 1H); m/z: 330.

reactant | Trifluoromethylsulphonic anhydride | 0.93 mmol, 0.16 ml | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-methoxyethanol | 0.88 mmol, 73.7 ml | COCCO | C3H8O2
reactant | diisopropylethylamine | 1.17 mmol, 0.20 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(3-chloroanilino)-4-(1-triphenylmethylimidazol-4-yl)pyrimidine | ClC=1C=C(NC2=NC=CC(=N2)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C32H24ClN5
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Chloroanilino)-4-[1-(2-methoxyethyl)imidazol-5-yl]pyrimidine hydrochloride | 132 mg, 69% | Cl.ClC=1C=C(NC2=NC=CC(=N2)C2=CN=CN2CCOC)C=CC1 | InChI=1S/C16H16ClN5O.ClH/c1-23-8-7-22-11-18-10-15(22)14-5-6-19-16(21-14)20-13-4-2-3-12(17)9-13;/h2-6,9-11H,7-8H2,1H3,(H,19,20,21);1H
